US08895558B2
Step 1: Ethyl 1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxylate
To ethyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate (3 g, 13 mmol) in THF (50 ml) was added iodomethane (4 ml, 65 mmol) and sodium hydride (630 mg, 60% in mineral oil, 15.6 mmol) at 0° C. After warming the reaction mixture to room temperature, it was stirred for 1 day. Water (20 ml) was added and extracted organic layer with diethyl ether. With normal-phase preparative LC, purification preceded to gave title compound (3 g, 94%) as yellow solid.

reactant | ethyl 2-methyl-5-phenyl-1H-pyrrole-3-carboxylate | 13 mmol, 3 g | CC=1NC(=CC1C(=O)OCC)C1=CC=CC=C1 | C14H15NO2
reactant | iodomethane | 65 mmol, 4 ml | IC | CH3I
reactant | sodium hydride | 15.6 mmol, 630 mg | [H-].[Na+]
reactant | Water | 20 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl 1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxylate | 3 g, 94% | CN1C(=C(C=C1C1=CC=CC=C1)C(=O)OCC)C | C15H17NO2
